US09056859B2
The crude (4-amino-3-iodophenyl)acetic acid (about 40 g, about 171 mmol) in methanol (110 mL) was added 100 mL of 4 M MeOH/HCl and the solution was stirred at ambient temperature over night. Distilled the solution under reduce pressure, and the residue was purified by silica gel cloumn chromatography to give methyl (4-amino-3-iodophenyl)acetate. 1H-NMR (300 MHz, CDCl3) δ ppm 7.54 (s, 1H), 7.04 (d, J=7.9 Hz, 1H), 6.68 (d, J=7.9 Hz, 1H), 3.67 (s, 3H), 3.46 (s, 2H).

reactant | (4-amino-3-iodophenyl)acetic acid | about 171 mmol, about 40 g | NC1=C(C=C(C=C1)CC(=O)O)I | C8H8INO2
reactant | MeOH HCl | 4 M, 100 mL | CO.Cl
solvent | methanol | 110 mL | CO | CH4O
product | methyl (4-amino-3-iodophenyl)acetate | NC1=C(C=C(C=C1)CC(=O)OC)I | C9H10INO2
